US04391807
A mixture was prepared by adding 4.5 g of 6-chloro-7,8,9,10-tetrahydroimidazo[2,1-a]phthalazine to 8.7 g of pyrrolidine and this was heated at reflux for 6.5 hours during which time the mixture turned brown. The reaction mixture was then poured into about 150 ml of ice water. A solid formed immediately and this was separated by filtration and air dried to give 6-(1-pyrrolidinyl)-7,8,9,10-tetrahydroimidazo[2,1-a]phthalazine melting at about 128° C.

reactant | 6-chloro-7,8,9,10-tetrahydroimidazo[2,1-a]phthalazine | 4.5 g | ClC1=NN2C(C=3CCCCC13)=NC=C2 | C10H10ClN3
reactant | pyrrolidine | 8.7 g | N1CCCC1 | C4H9N
product | 6-(1-pyrrolidinyl)-7,8,9,10-tetrahydroimidazo[2,1-a]phthalazine | N1(CCCC1)C1=NN2C(C=3CCCCC13)=NC=C2 | C14H18N4
